US08314138B2
Part A. To a solution of 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (250 mg, 0.55 mmol, 1.0 equiv) in dimethyl ether (3 mL) was added Na2CO3 (175 mg, 1.65 mmol, 3.0 equiv), trans-2-(4-fluorophenyl)vinyl boronic acid (274 mg, 1.65 mmol, 3.0 equiv), PdCl2(dppf) (40 mg, 0.06 mmol, 0.1 equiv) and water (0.4 mL) in a sealed tube. The reaction vessel was immersed in an oil bath preheated to 100° C. After stirring for 12 hr, the reaction mixture was cooled and the solvent was removed in vacuo. The crude product was purified by column chromatography [SiO2, methanol/dichloromethane, 0:100 to 10:90, v/v] to give 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide (160 mg, 65%). MS (M+H)+=449.1, Rt=1.64 min.

reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 0.55 mmol, 250 mg, 1.0 equiv | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
reactant | Na2CO3 | 1.65 mmol, 175 mg, 3.0 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trans-2-(4-fluorophenyl)vinyl boronic acid | 1.65 mmol, 274 mg, 3.0 equiv | FC1=CC=C(C=C1)/C=C/B(O)O | C8H8BFO2
reactant | water | 0.4 mL | O | H2O
solvent | dimethyl ether | 3 mL | COC | C2H6O
catalyst | PdCl2(dppf) | 0.06 mmol, 40 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{6-[(E)-2-(4-fluoro-phenyl)-vinyl]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 160 mg, 65% | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)\C=C\C2=CC=C(C=C2)F)C)C=C1 | C24H18F2N4OS
